US09085575B2
9.17 g (49.3 mmol) of tert-butyl piperazine-1-carboxylate and then 6.81 g (49.3 mmol) of potassium carbonate, respectively, are added to 7 g (49.3 mmol) of 2,4-difluorobenzaldehyde diluted in 60 ml of dimethylsulfoxide. The solution is carried at 60° C. for 8 hours and then water is added and the product is extracted several times with ethyl acetate. The organic phases are combined, dried on magnesium sulfate and concentrated. The residue obtained is purified by silica gel chromatography (eluent: 7:3 cyclohexane/ethyl acetate) to yield 7.4 g (48%) of tert-butyl 4-(3-fluoro-4-formylphenyl)piperazine-1-carboxylate in the form of a white solid.

reactant | tert-butyl piperazine-1-carboxylate | 49.3 mmol, 9.17 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 49.3 mmol, 6.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-difluorobenzaldehyde | 49.3 mmol, 7 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | water | O | H2O
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
product | tert-butyl 4-(3-fluoro-4-formylphenyl)piperazine-1-carboxylate | 7.4 g, 48% | FC=1C=C(C=CC1C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21FN2O3
